US07348340B2
A3. N-[2-(4-Cyclohexylphenyl)-4-hydroxy-quinolin-6-yl]-acetamide
Into a 2 L three-neck round-bottom flask equipped with a condenser, magnetic stirrer, thermocouple, heating mantle with a variable voltage controller, and a nitrogen inlet, was charged 1.2 L of Dowtherm A (a eutectic mixture of 26.5% diphenyl and 73.5% diphenyl oxide). The Dowtherm A was then preheated to 250° C. To this was cautiously added in small portions 48 g (0.11 moles) of 3-(4-acetylamino-phenylamino)-3-(4-cyclohexylphenyl)-acrylic acid butyl ester. As portions were added gas was evolved and foaming occurred. Crystals of product begin to form and adhere to the sides. After all the material had been added the heating of the reaction was continued for 1 hour. The mixture was then cooled to room temperature and hexane was added. The solid product was collected by vacuum filtration and washed with hexane. After drying in a vacuum oven, 35.7 g (90%) of product was recovered.

reactant | Dowtherm A | 1.2 L | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | diphenyl oxide | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | 3-(4-acetylamino-phenylamino)-3-(4-cyclohexylphenyl)-acrylic acid butyl ester | 0.11 moles, 48 g | C(CCC)OC(C=C(C1=CC=C(C=C1)C1CCCCC1)NC1=CC=C(C=C1)NC(C)=O)=O | C27H34N2O3
solvent | hexane | CCCCCC | C6H14
product | N-[2-(4-Cyclohexylphenyl)-4-hydroxy-quinolin-6-yl]-acetamide | C1(CCCCC1)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1)O)NC(C)=O | C23H24N2O2
